US09376436B2
A mixture of 4-chloropyridine-2-carbonitrile (4.1 g, 29.56 mmol) and (5-ethoxy-2-fluoro-phenyl)boronic acid (5982.6 mg, 32.52 mmol) in monoglyme (150 mL) was treated with sodium carbonate (29.56 mL, 59.13 mmol) and then PdCl2(PPh3)2 (1037.5 mg, 1.48 mmol) and the mixture was refluxed under argon. After 2 hrs the DME was evaporated and ethyl acetate (200 ml) and water were added and the product was extracted into ethyl acetate (3 times). The extracts were dried (Na2SO4) and concentrated. Chromatography on silica gel (0-50% ethyl acetate in isohexane, using a SNAP340 cartidge on a Biotage SP4) gave 4-(5-ethoxy-2-fluoro-phenyl)pyridine-2-carbonitrile (D111) (6.12 g) as an off white solid;

reactant | 4-chloropyridine-2-carbonitrile | 29.56 mmol, 4.1 g | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | (5-ethoxy-2-fluoro-phenyl)boronic acid | 32.52 mmol, 5982.6 mg | C(C)OC=1C=CC(=C(C1)B(O)O)F | C8H10BFO3
reactant | sodium carbonate | 59.13 mmol, 29.56 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | monoglyme | 150 mL | C(OC)COC | C4H10O2
catalyst | PdCl2(PPh3)2 | 1.48 mmol, 1037.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(5-ethoxy-2-fluoro-phenyl)pyridine-2-carbonitrile | 6.12 g | C(C)OC=1C=CC(=C(C1)C1=CC(=NC=C1)C#N)F | C14H11FN2O
